US04782155
2.0 g (yield: 86%) of benzhydryl 7-[2-allyloxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-(6,7-dihydroxyisoquinolinio)methyl-3-cephem-4-carboxylate 1-oxide iodide (syn-isomer) was prepared from 2.0 g (2.0 mmol) of benzhydryl 7-[2-allyloxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-iodomethyl-3-cephem-4-carboxylate 1-oxide (syn-isomer) and 600 mg (2.3 mmol) of 6,7-dihydroxyisoquinoline hydrobromide monohydrate in the same manner as in Example 1(D).

reactant | benzhydryl 7-[2-allyloxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-iodomethyl-3-cephem-4-carboxylate 1-oxide | 2.0 mmol, 2.0 g | C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2=O)CI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C48H40IN5O6S2
reactant | 6,7-dihydroxyisoquinoline hydrobromide monohydrate | 2.3 mmol, 600 mg | O.Br.OC=1C=C2C=CN=CC2=CC1O
product | benzhydryl 7-[2-allyloxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-(6,7-dihydroxyisoquinolinio)methyl-3-cephem-4-carboxylate 1-oxide iodide | 2.0 g, yield: 86% | [I-].C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2=O)CC2=[NH+]C=CC3=CC(=C(C=C23)O)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C57H46N6O8S2.HI/c1-2-30-70-62-48(45-34-72-56(59-45)61-57(40-22-12-5-13-23-40,41-24-14-6-15-25-41)42-26-16-7-17-27-42)52(66)60-49-53(67)63-50(55(68)71-51(36-18-8-3-9-19-36)37-20-10-4-11-21-37)39(35-73(69)54(49)63)31-44-43-33-47(65)46(64)32-38(43)28-29-58-44;/h2-29,32-34,49,51,54,64-65H,1,30-31,35H2,(H,59,61)(H,60,66);1H/t49?,54-,73?;/m1./s1
